US04371644
2,2-bis{4-[2-hydroxy-3-(2,2,6,6-tetramethylpiperidino)propoxy]phenyl}propane (Compound No. 1)
To 50 ml of t-butanol were added 14.1 g of 2,2,6,6-tetramethylpiperidine and 10.2 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane, and the mixture was reacted following the procedure described in Example 21 to give the desired Compound No. 1 in the form of white crystals melting at 110°-112° C.

reactant | 2,2,6,6-tetramethylpiperidine | 14.1 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 10.2 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | 2,2-bis{4-[2-hydroxy-3-(2,2,6,6-tetramethylpiperidino)propoxy]phenyl}propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(CCCC1(C)C)(C)C)O)CN1C(CCCC1(C)C)(C)C | C39H62N2O4
